US07842688B2
g) 4-Allyloxy-3-nitrobenzaldehyde
Analogously to Method F, 25 g of 4-hydroxy-3-nitrobenzaldehyde and 25.1 ml of allyl bromide are reacted. The title compound is obtained as a slightly yellowish solid. Rf=0.30 (1:2 EtOAc-heptane). Rt=4.00.

reactant | 4-hydroxy-3-nitrobenzaldehyde | 25 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | allyl bromide | 25.1 ml | C(C=C)Br | C3H5Br
product | 4-Allyloxy-3-nitrobenzaldehyde | C(C=C)OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C10H9NO4
